US07335673B2
Diisopropylamine (31 mL, 221 mmol) was dissolved in tetrahydrofuran (200 mL), and the solution was added drop-wisely with a 1.6 mol/L hexane solution of n-butyllithium (128 mL, 205 mmol) at −78° C. The mixture was stirred for 15 minutes, and was added drop-wisely with a tetrahydrofuran solution (200 mL) of 3,5-dichloropyridine (25.1 g, 170 mmol) while keeping the temperature at −78° C., and then stirred for additional 1 hour. The reaction solution was added with dry ice to thereby gradually heat to room temperature, and further stirred for 15 hours. The mixture was treated with water (1 L), added with a 1 mol/L aqueous sodium hydroxide solution (100 mL), and washed with ether. The separated aqueous phase was adjusted to be acidic using a 6 mol/L hydrochloric acid, and the resultant precipitate was collected by filtration. The filtrate was extracted with ethyl acetate, the extract was dried over anhydrous sodium sulfate, evaporated under reduced pressure so as to remove the solvent, and the mixture of the resultant residue and the precipitate previously collected were re-crystallized from ethanol, which yielded 3,5-dichloropyridine-4-carboxylic acid (yield: 23 g, yield ratio: 70%) as a yellow crystal.

reactant | Diisopropylamine | 221 mmol, 31 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 205 mmol, 128 mL | C(CCC)[Li]
reactant | 3,5-dichloropyridine | 170 mmol, 25.1 g | ClC=1C=NC=C(C1)Cl | C5H3Cl2N
reactant | dry ice | C(=O)=O | CO2
reactant | sodium hydroxide | 1 mol/L, 100 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | water | 1 L | O | H2O
solvent | hexane | 1.6 mol/L | CCCCCC | C6H14
product | 3,5-dichloropyridine-4-carboxylic acid | yield: 23 g, 70% | ClC=1C=NC=C(C1C(=O)O)Cl | C6H3Cl2NO2
